US07795262B2
Step 4. Preparation of [6-(6-methyl-pyridazin-3-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid
To a stirred solution of [6-(6-methyl-pyridazin-3-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid tert-butyl ester (957 mg, 2.82 mmol) in EtOAc (30 ml), is added the solution of hydrochloride in dioxane (4.0M, 10 ml, 40 mmol). The mixture is stirred at 50° C. overnight. The organic solvents are evaporated to give the title compound as dihydrochloric acid salt. MS (+VE) m/z 284.1 (M++1).

reactant | [6-(6-methyl-pyridazin-3-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid tert-butyl ester | 2.82 mmol, 957 mg | C(C)(C)(C)OC(CN1CC2=CC=C(C=C2CC1)C=1N=NC(=CC1)C)=O | C20H25N3O2
reactant | hydrochloride | Cl | ClH
reactant | dioxane | 40 mmol, 4.0M, 10 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | [6-(6-methyl-pyridazin-3-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-acetic acid | CC1=CC=C(N=N1)C=1C=C2CCN(CC2=CC1)CC(=O)O | C16H17N3O2
